US06191124B1
A solution of 2-(4-Bromophenyl)-E-ethenylimidazo[2,1-b]thiazol-5-yl methanone (Formula B-9) (1.04 g) in toluene (160 mL) was treated with a solution prepared by dissolving Na2S2O4 (14.4 g) in water (220 mL), adding sodium bicarbonate (15.6 g) and Aliquot®336 (0.41 mL). The vigorously stirred suspension was heated at 100° for 85 hours, diluted with ethyl acetate and partitioned. The extract was washed with saline solutions, dried and evaporated to a viscous residue. The residue was chromatographed on silica gel and product was eluted with 4:1 hexane:ethyl acetate to provide 2-(4-Bromophenylethyl)-3-methylimidazo[2,1-b]thiazol-5-yl methanone (Formula B-10) (0.220 g). An aliquot was crystallized from isopropanol to yield pure 2-(4-Bromophenylethyl)-3-methylimidazo[2,1-b]thiazol-5-yl methanone (Formula B-10), m.p, 113-115°.

reactant | 2-(4-Bromophenyl)-E-ethenylimidazo[2,1-b]thiazol-5-yl methanone | 1.04 g | BrC1=CC=C(C=C1)/C=C/C(=O)C1=CN=C2SC=CN21 | C14H9BrN2OS
reactant | Na2S2O4 | 14.4 g | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
reactant | sodium bicarbonate | 15.6 g | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 160 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 220 mL | O | H2O
product | 2-(4-Bromophenylethyl)-3-methylimidazo[2,1-b]thiazol-5-yl methanone | 0.220 g | BrC1=CC=C(C=C1)CCC1=C(N2C(S1)=NC=C2C=O)C | C15H13BrN2OS
